US08470823B2
4-Chloro-2-methylpyridin-3-amine (DD1)
Following a modified synthetic procedure reported in WO 2005/016892, a mixture of 2-bromo-4-chloropyridin-3-amine (prepared as described in US2002/0119982) (1.0 eq.), trimethylboroxine (1.05 eq.), K2CO3 (3.5 eq.) and PdCl2(dppf)-CH2Cl2 adduct (0.1 eq.) in 10:1 solution 1,4-dioxane:H2O (0.28M) was put in a 10-mL glass vial equipped with a small magnetic stirring bar. The reaction vessel was fitted with a rubber septum, was evacuated and back-filled with argon and sealed with an aluminum/Teflon crimp top. The reaction mixture was then irradiated for 1 h at 120° C., using an irradiation power of 100 W. After completion of the reaction, the vial was cooled to 50° C. with air jet cooling before it was opened. The reaction mixture was diluted with EtOAc and filtered on a pad of Solca Floc®200FCC. The crude product was purified by flash chromatography eluting with 5-100% EtOAc/petroleum ether affording the titled compound as violet oil. MS (ES) C6H7ClN2 requires: 142, found: 143, 145 (M+H)+.

reactant | 2-bromo-4-chloropyridin-3-amine | 1.0 eq. | BrC1=NC=CC(=C1N)Cl | C5H4BrClN2
reactant | trimethylboroxine | 1.05 eq. | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K2CO3 | 3.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.1 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | H2O | 0.28M | O | H2O
product | 4-Chloro-2-methylpyridin-3-amine | ClC1=C(C(=NC=C1)C)N | C6H7ClN2
